Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Bleeding after dental procedure
 
Major Surgical or Invasive Procedure:
Local hemostatic measures by OMFS, dissolvable stitches placed 

 
History of Present Illness:
___ yo F with history of Afib on apixaban bid who presents from 
home for a bleeding mouth.  She underwent extraction of a tooth 
with her dentist morning of ___ and states that he took 2 extra 
teeth out for unknown reasons.  She started bleeding from her 
mouth at home and so first presented to ___ for eval.  
She reportedly experienced 2 syncopal episodes with SBP in 
___-___ and was given 1 unit PRBC and 1L IVF.  Then 
transferred to ___ for further management.

In the ED, initial vitals were: 98.6 85 135/100 14 98% RA 
Then
HR 130  BP 69/40 (reported VV episode)

Labs notable for:
WBC 15.9
INR 1.2
K 3.2

 
Past Medical History:
HTN, Alzheimers, HLD, ___, atrial fibrillation 
 
Social History:
___
Family History:
No family history of heart disease or bleeding disorders  
 
Physical Exam:
ADMISSION PHYSICAL EXAM
==========================
Vital Signs:  98.1 165/95 80 16 98RA
General: Alert, oriented, no acute distress, gauze in mouth  
HEENT: gauze stuffed in LUQ of mouth and is protruding; dried 
blood on lips; EOMI and PERRL
CV: irregular rhythm but no murmurs  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: thin and soft, non-tender, non-distended, bowel sounds 
present, no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities 

DISCHARGE PHYSICAL EXAM
========================
VS 97.8 139/68 72 16 97% RA
General: Alert, oriented, no acute distress, gauze in mouth  
HEENT: gauze stuffed in LUQ of mouth and is protruding; dried 
blood on lips; EOMI and PERRL
CV: irregular rhythm but no murmurs  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: thin and soft, non-tender, non-distended, bowel sounds 
present, no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities 

 
Pertinent Results:
ADMISSION LABS
==============
___ 10:00PM   ___ PTT-35.0 ___
___ 10:00PM   PLT COUNT-202
___ 10:00PM   NEUTS-87.5* LYMPHS-5.0* MONOS-5.3 EOS-0.3* 
BASOS-0.3 NUC RBCS-0.2* IM ___ AbsNeut-13.93* AbsLymp-0.80* 
AbsMono-0.84* AbsEos-0.04 AbsBaso-0.05
___ 10:00PM   WBC-15.9* RBC-4.39 HGB-13.2 HCT-41.1 MCV-94 
MCH-30.1 MCHC-32.1 RDW-15.9* RDWSD-54.7*
___ 10:00PM   estGFR-Using this
___ 10:00PM   GLUCOSE-156* UREA N-22* CREAT-0.6 SODIUM-141 
POTASSIUM-3.2* CHLORIDE-107 TOTAL CO2-25 ANION GAP-12
___ 07:15AM   ___ PTT-34.1 ___
___ 07:15AM   PLT COUNT-170
___ 07:15AM   WBC-8.4 RBC-3.50* HGB-10.4* HCT-32.7* MCV-93 
MCH-29.7 MCHC-31.8* RDW-16.9* RDWSD-57.6*

DISCHARGE LABS
==================
___ 06:05AM BLOOD WBC-7.4 RBC-3.03* Hgb-9.3* Hct-28.7* 
MCV-95 MCH-30.7 MCHC-32.4 RDW-16.2* RDWSD-55.9* Plt ___
___ 06:05AM BLOOD ___ PTT-31.5 ___
___ 06:05AM BLOOD Glucose-95 UreaN-17 Creat-0.6 Na-138 
K-4.1 Cl-102 HCO3-30 AnGap-10
___ 06:05AM BLOOD Calcium-8.8 Phos-3.0 Mg-1.8

IMAGING
=========
EKG ___: Atrial fibrillation. Left axis deviation. Left 
ventricular hypertrophy with 
secondary repolarization abnormalities. Cannot rule out 
anteroseptal  
myocardial infarction of indeterminate age. No previous tracing 
available for 
comparison.  

CXR ___: Patchy opacities projecting over the left lung which 
could represent infection in the proper clinical setting.  Given 
nodular appearance of some of these opacities, follow up is 
suggested and can begin with PA and lateral views when patient 
is amenable 

 
Brief Hospital Course:
___ yo F with history of Afib on apixaban bid who presented from 
home for a bleeding mouth. She underwent extraction of a tooth 
with her dentist morning of ___ and stateed that he took 2 
extra teeth out. She started bleeding from her mouth at home and 
so first presented to ___ for eval. She reportedly 
experienced 2 syncopal episodes with SBP in ___-___ and was 
given 1 unit PRBC and 1L IVF. Then transferred to ___ for 
further management. ___ was consulted and injected epinephrine 
and irrigation. Applied Surgicel placed into socket. 4.0 vicryl 
sutures placed x4. direct pressure applied to site. Hemostasis 
was obtained. She was put on a soft diet and her Eliquis was 
held while in-house. Patient stabilized by next day and 
discharged to follow up with outpatient providers. 

# Hemorrhage after tooth extraction: Patient is s/p 2 units FFP, 
1 unit PRBC, and 1L IVF. Had episodes of hypotension which were 
transient and believed to be secondary to vagal response. 
Hemoglobin on admission 13.2 decreased to 9.4 after bleeding was 
stopped and hgb was became stabilized. OMFS performed hemostatic 
measures at bedside in ED and placed absorbable sutures which 
along with FFP, stopped patients bleeding. Her vitals remained 
stable after cessation of bleeding and she was restarted on her 
home antihypertensive. She tolerated a soft diet. She was 
discharged with instruction to hold eliquis for 3 days and to 
continue a soft diet for 1 week.

***Transitional issues***: 
- patient instructed to hold Eliquis for 3 days, and should 
restart this medication on ___. Should f/u with PCP to discuss 
the risk-benefit of continuing this medication in the setting of 
a major hemorrhagic event. 
- patient's atenolol dose could not be confirmed during this 
admission. Would make sure that there is documentation of how 
much she is taking. Heart rates and blood pressure stable during 
this admission. 
- consider follow up CXR PA and lateral to evaluate patchy 
opacities projecting over the left lung.
- contact: ___, ___

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Apixaban 2.5 mg PO BID 
2. amLODIPine 5 mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 20 mg PO QPM 
5. Cetirizine 10 mg PO DAILY 
6. Donepezil 10 mg PO QHS 
7. Ferrous Sulfate 325 mg PO DAILY 
8. Memantine 10 mg PO BID 
9. Omeprazole 40 mg PO DAILY 
10. Cyanocobalamin 250 mcg PO 2X/WEEK (MO,FR) 
11. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY  
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 20 mg PO QPM  
4.  Cetirizine 10 mg PO DAILY  
5.  Cyanocobalamin 250 mcg PO 2X/WEEK (MO,FR)  
6.  Donepezil 10 mg PO QHS  
7.  Ferrous Sulfate 325 mg PO DAILY  
8.  Memantine 10 mg PO BID  
9.  Omeprazole 40 mg PO DAILY  
10.  Vitamin D ___ UNIT PO DAILY  
11. HELD- Apixaban 2.5 mg PO BID  This medication was held. Do 
not restart Apixaban until ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses: 
Post dental extraction bleed, on anticoagulation
Acute Anemia

Secondary diagnosis
Atrial fibrillation
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

You were admitted to the hospital with bleeding from having your 
tooth pulled. You are on Eliquis for your atrial fibrillation, 
and for this reason you were given blood products to reduce the 
effect of this drug. Our oral surgeons saw you and did a small 
procedure and stopped the bleeding. You were stable for a day 
and then were discharged from the hospital.

There is no additional follow up needed. The stitches placed by 
the surgeons will dissolve on their own. Please continue to eat 
a soft diet for 1 week. You can restart your Eliquis on ___. 

It was a pleasure taking care of you,
Your ___ team.
 
Followup Instructions:
___